### PR TITLE
[Merged by Bors] - feat(Algebra): misc lemmas and cleanup

### PR DESCRIPTION
**Pull request by alreadydone**
+ In IsAlgClosed/Basic we add the fact that an algebraic extension E/F is an algebraic closure if all (monic irreducible) polynomials in F[X] split in E. In fact it suffices that every such polynomial has a root in E, but is used to deduce the "split" version in #18412.

+ Swap the order of `AlgHom.card_of_splits` and `AlgHom.card` in FieldTheory/PrimitiveElement to avoid importing AlgebraicClosure.

+ Simplify the statements of two theorems in GroupTheory/CosetCover and deduce an easier-to-use form.

+ Add two extensionality lemmas for AlgHom out of `Algebra.adjoin R s` in RingTheory/Adjoin/Basic.

+ Add two lemmas to Minpoly/Field and golf `minpoly.eq_of_root` in FieldTheory/Adjoin.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/FieldTheory/Minpoly/Field.lean [hunk 1]
```diff
@@ -118,6 +118,15 @@ theorem eq_of_irreducible_of_monic [Nontrivial B] {p : A[X]} (hp1 : Irreducible
     mul_one (minpoly A x) ▸ hq.symm ▸ Associated.mul_left _
       (associated_one_iff_isUnit.2 <| (hp1.isUnit_or_isUnit hq).resolve_left <| not_isUnit A x)
 
+theorem eq_iff_aeval_eq_zero [Nontrivial B] {p : A[X]} (hp1 : Irreducible p) (hp3 : p.Monic) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/FieldTheory/Minpoly/Field.lean:121]: Why hp1 and hp3 as names?

File: Mathlib/FieldTheory/Minpoly/Field.lean [hunk 2]
```diff
@@ -118,6 +118,15 @@ theorem eq_of_irreducible_of_monic [Nontrivial B] {p : A[X]} (hp1 : Irreducible
...
+    p = minpoly A x ↔ Polynomial.aeval x p = 0 :=
+  ⟨(· ▸ aeval A x), (eq_of_irreducible_of_monic hp1 · hp3)⟩
+
+theorem eq_iff_aeval_minpoly_eq_zero [IsDomain B] {C} [Ring C] [Algebra A C] [Nontrivial C]
```
Comment (Ruben-VandeVelde) [inline Mathlib/FieldTheory/Minpoly/Field.lean:125]:
```suggestion
theorem eq_iff_aeval_minpoly_eq_zero [IsDomain B] {C : Type*} [Ring C] [Algebra A C] [Nontrivial C]
```

File: Mathlib/GroupTheory/CosetCover.lean [hunk 3]
```diff
@@ -370,19 +370,31 @@ variable {k E : Type*} [DivisionRing k] [Infinite k] [AddCommGroup E] [Module k
...
   contrapose! hcovers
-  exact Subspace.biUnion_ne_univ_of_ne_top hcovers
+  exact Subspace.biUnion_ne_univ_of_top_nmem hcovers
+
+@[deprecated (since := "2024-10-29")]
+alias Subspace.biUnion_ne_univ_of_ne_top := Subspace.biUnion_ne_univ_of_top_nmem
+@[deprecated (since := "2024-10-29")]
+alias Subspace.exists_eq_top_of_biUnion_eq_univ := Subspace.top_mem_of_biUnion_eq_univ
+
+theorem Subspace.exists_eq_top_of_iUnion_eq_univ {ι} [Finite ι] {p : ι → Subspace k E}
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/CosetCover.lean:394]:
```suggestion
theorem Subspace.exists_eq_top_of_iUnion_eq_univ {ι : Type*} [Finite ι] {p : ι → Subspace k E}
```
or `Sort*`?

**Review by Ruben-VandeVelde — APPROVED** [review]

File: Mathlib/FieldTheory/Minpoly/Field.lean (hunk 1 above)
Comment (alreadydone) [reply Mathlib/FieldTheory/Minpoly/Field.lean:121]: Just following the previous lemma; let me change these.

File: Mathlib/FieldTheory/Minpoly/Field.lean [hunk 4]
```diff
@@ -118,6 +118,15 @@ theorem eq_of_irreducible_of_monic [Nontrivial B] {p : A[X]} (hp1 : Irreducible
     mul_one (minpoly A x) ▸ hq.symm ▸ Associated.mul_left _
       (associated_one_iff_isUnit.2 <| (hp1.isUnit_or_isUnit hq).resolve_left <| not_isUnit A x)
 
+theorem eq_iff_aeval_eq_zero [Nontrivial B] {p : A[X]} (hp1 : Irreducible p) (hp3 : p.Monic) :
+    p = minpoly A x ↔ Polynomial.aeval x p = 0 :=
+  ⟨(· ▸ aeval A x), (eq_of_irreducible_of_monic hp1 · hp3)⟩
```
Comment (alreadydone) [inline Mathlib/FieldTheory/Minpoly/Field.lean:123]:
```suggestion
theorem eq_iff_aeval_eq_zero [Nontrivial B] {p : A[X]} (irr: Irreducible p) (monic: p.Monic) :
    p = minpoly A x ↔ Polynomial.aeval x p = 0 :=
  ⟨(· ▸ aeval A x), (eq_of_irreducible_of_monic irr · monic)⟩
```

File: Mathlib/FieldTheory/Minpoly/Field.lean (hunk 2 above)
Comment (alreadydone) [reply Mathlib/FieldTheory/Minpoly/Field.lean:125]: Is it not clear from [Ring C] that C is a Type*? Or are there other concerns? Worried that C may be inferred to be of some fixed universe rather than polymorphic?

File: Mathlib/GroupTheory/CosetCover.lean (hunk 3 above)
Comment (alreadydone) [reply Mathlib/GroupTheory/CosetCover.lean:394]: `Finite` allows `Sort*`. Leaving it unspecified has the advantage that you don't need to worry about this.

File: Mathlib/FieldTheory/Minpoly/Field.lean (hunk 2 above)
Comment (jcommelin) [reply Mathlib/FieldTheory/Minpoly/Field.lean:125]: I think `{C}` is fine.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
